US06255315B1
2-(3,4-difluorophenyl)-3-cyclopropyl-3-hydroxy-propionic acid
A solution of 3,4-difluorophenylacetic acid (2.9 g, 16.8 mmol) in 80 mL dry THF was cooled to −78° C. and treated with LDA (2.0 M heptane/THF/ethylbenzene, 42 mmol, 21 mL) for 15 minutes. Then cyclopropylcarboxaldehyde (17 mmol, 1.27 mL, 1.19 g) was added via syringe and the reaction warmed slowly to room temperature over 1 hr. The reaction mixture was diluted with 5% aqueous potassium hydrogen sulfate (50 mL), and extracted with ethyl acetate (2×150 mL). The combined extracts were dried (Na2SO4), filtered and concentrated in vacuo. The lower rf material crystallized to give 1.4 g of solid. 1H NMR (CDCl3, 300 MHz) δ 7.40-7.00 (m, 3H, Ar—H), 3.75-3.60 (br m, 1H), 3.50-3.40 (m, 1H), 0.95-0.70 (m, 1H), 0.5-0.20 (m, 4H).

reactant | 3,4-difluorophenylacetic acid | 16.8 mmol, 2.9 g | FC=1C=C(C=CC1F)CC(=O)O | C8H6F2O2
reactant | LDA | 42 mmol, 2.0 M, 21 mL | [Li+].CC(C)[N-]C(C)C
reactant | cyclopropylcarboxaldehyde | 17 mmol, 1.27 mL, 1.19 g | C1CC1C(C#N)O | C5H7NO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | potassium hydrogen sulfate | 50 mL | S(=O)(=O)(O)[O-].[K+]
product | 2-(3,4-difluorophenyl)-3-cyclopropyl-3-hydroxy-propionic acid | 1.4 g | FC=1C=C(C=CC1F)C(C(=O)O)C(O)C1CC1 | C12H12F2O3
